US07745484B2
Step 3: Tert-Butyl (2S,3 S)-3-(tert-butyldimethylsilyloxy)-1-(3-fluorophenyl)-4-oxobutan-2-ylcarbamate
To a 150 mL RBF containing tert-butyl (2S,3S)-3-(tert-butyldimethylsilyloxy)-1-(3-fluorophenyl)-4-hydroxybutan-2-ylcarbamate (170.00 mg, 411 μmol) was added DCM (10 mL) and the mixture was allowed to stir at 23° C. for 2 minutes. At this time, pyridine (299 μl, 3699 μmol) was added via syringe before the addition of Dess-MartinPeriodinane (262 mg, 617 μmol) in one portion. The reaction stayed a clear solution and was allowed to stir 1 h before loading directly to a silica gel column (20% EtOAc). The purified product was concentrated to give the title compound as a colorless oil.

reactant | tert-butyl (2S,3S)-3-(tert-butyldimethylsilyloxy)-1-(3-fluorophenyl)-4-hydroxybutan-2-ylcarbamate | 411 μmol, 170.00 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](CC1=CC(=CC=C1)F)NC(OC(C)(C)C)=O)CO | C21H36FNO4Si
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
reactant | pyridine | 3699 μmol, 299 μl | N1=CC=CC=C1 | C5H5N
reactant | Dess-MartinPeriodinane | 617 μmol, 262 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Tert-Butyl (2S,3 S)-3-(tert-butyldimethylsilyloxy)-1-(3-fluorophenyl)-4-oxobutan-2-ylcarbamate | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](CC1=CC(=CC=C1)F)NC(OC(C)(C)C)=O)C=O | C21H34FNO4Si
